US07476399B2
Benzo[1,3]dioxole-5-carboxylic acid indan-1-ylamide
Prepared in a similar manner to example 4 using benzo[1,3]dioxole-5-carboxylic acid and indan-1-ylamine. MS (M+H, 282.2).

reactant | benzo[1,3]dioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | indan-1-ylamine | C1(CCC2=CC=CC=C12)N | C9H11N
product | Benzo[1,3]dioxole-5-carboxylic acid indan-1-ylamide | C1(CCC2=CC=CC=C12)NC(=O)C1=CC2=C(OCO2)C=C1 | C17H15NO3
